US08557876B2
A 100 mL reaction flask is charged with 2-isopropyl-cyclohexanone (10 g, 0.07 mol), formamidine acetate (40 g, 0.4 mol), and butanol (50 mL). The reaction mixture is heated to 130° C. and stirred for 24 hours. The crude mass is washed once with aqueous sulfuric acid (10%, 100 mL) followed by twice with brine (30 mL). Butanol is recovered by roto-evaporation. The crude product is further purified with liquid chromatography (Biotage® system) and then crystallized. Product 8-isopropyl-5,6,7,8-tetrahydro-quinazoline (˜5 g) is obtained.

reactant | 2-isopropyl-cyclohexanone | 0.07 mol, 10 g | C(C)(C)C1C(CCCC1)=O | C9H16O
reactant | formamidine acetate | 0.4 mol, 40 g | C(C)(=O)O.C(=N)N
solvent | butanol | 50 mL | C(CCC)O | C4H10O
product | 8-isopropyl-5,6,7,8-tetrahydro-quinazoline | ˜5 g | C(C)(C)C1CCCC=2C=NC=NC12 | C11H16N2
